US07232909B2
To a cold (−78° C.) solution of lithium diisopropylamide (LDA) (23.3 mmol) in THF (10 mL) under an argon atmosphere was added dropwise a solution of 1-tert-butyl 3-ethyl 1,3-piperidinedicarboxylate (3.0 g, 11.6 mmol) in THF (5 mL), then stirred at −50° C. for 2 hrs. To the resulting mixture was added a solution of Mel (1.98 g, 14 mmol) in THF at −50° C. The reaction mixture was allowed to warm to room temperature, and quenched with saturated aqueous NH4Cl solution. The mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic phase was separated, dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (hexane:ethyl acetate, 9:1) to give 1-tert-butyl 3-ethyl 3-methyl-1,3-piperidinedicarboxylate as a pale yellow oil (2.27 g, yield; 72%).

reactant | lithium diisopropylamide | 23.3 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-tert-butyl 3-ethyl 1,3-piperidinedicarboxylate | 11.6 mmol, 3.0 g | N1(CC(CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-ethyl 3-methyl-1,3-piperidinedicarboxylate | 2.27 g, yield; 72% | CC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C14H25NO4
